US04307116
A solution of the anhydride of 2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetic acid (syn isomer)(7.2 g) in methylene chloride (22.5 cc) is added in a single shot to a solution of 7-amino-2-benzhydryloxycarbonyl-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (3.15 g) in methylene chloride (31.5 cc). The temperature rises from 8° to 14° C. The mixture is kept stirred for one hour 15 minutes, during which the temperature returns to 20° C., and is then washed with 0.5 N hydrochloric acid (10 cc), distilled water (10 cc) and a saturated sodium bicarbonate solution (20 cc). The insoluble matter formed is filtered off, and the organic phase is washed again with distilled water (two×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (20 mm Hg) at 40° C. The residue is chromatographed over a column (diameter: 3 cm, height: 33 cm) containing silica gel (125 g), and elution is carried out with ethyl acetate/cyclohexane mixtures (1.2 and 1 liter, of respective composition 20:80 and 40:60 by volume), 50 cc fractions of eluate being collected. Fractions 31 to 44 are evaporated and 2-benzhydryloxycarbonyl-3-methyl-8-oxo-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene, syn isomer (2.8 g) is obtained in the form of a pale yellow solid.

reactant | 2-(2-tritylaminothiazol-4-yl)-2-methoxyimino-acetic acid | 7.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | 7-amino-2-benzhydryloxycarbonyl-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 3.15 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C | C21H20N2O3S
solvent | methylene chloride | 22.5 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 31.5 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-3-methyl-8-oxo-7-[2-methoxyimino-2-(2-tritylamino-thiazol-4-yl)-acetamido]-5-thia-1-aza-bicyclo[4.2.0]-oct-2-ene | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C46H39N5O5S2
